US07943669B2
Step B: {4-[3-Isobutoxy-5-(4-methanesulfonyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid
{4-[3-Isobutoxy-5-(4-methanesulfonyl-phenylethynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester (190 mg; 0.34 mmol) was dissolved in ethanol (10 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 16 h. acidified with 1 N aqueous hydrochloric acid and extracted with ethyl acetate. The organic phase was dried and evaporated to dryness and purified by prep HPLC (method B). Yield: 110 mg (61%). HPLC-MS: m/z: 525.1 (M+H)+; Rt: 2.55 min.

reactant | {4-[3-Isobutoxy-5-(4-methanesulfonyl-phenylethynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester | 0.34 mmol, 190 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)S(=O)(=O)C)OCC(C)C)C)=O | C30H32O6S2
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | {4-[3-Isobutoxy-5-(4-methanesulfonyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid | C(C(C)C)OC=1C=C(C=C(C1)C#CC1=CC=C(C=C1)S(=O)(=O)C)SC1=CC(=C(OCC(=O)O)C=C1)C | C28H28O6S2
